US07560567B2
Preparation of 2-[3-chloro-5-(trifluoromethyl -2-pyridinyl]-1-phenylethanone
To a suspension of 2.6 g (0.065 mol) of sodium hydride 60% in dimethoxyethane at room temperature is added 3.4 mL (0.029 mol) of acetophenone. After 45 min., 5.55 mL (0.038 mol) of 2,3-dichloro-5-(trifluoromethyl)pyridine is added. After 25 min., the reaction mixture is poured over 100 mL of hydrochloric acid 1N, extracted twice with 100 mL of ethyl acetate.

reactant | sodium hydride | 0.065 mol, 2.6 g | [H-].[Na+]
reactant | acetophenone | 0.029 mol, 3.4 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 0.038 mol, 5.55 mL | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 3-chloro-5-(trifluoromethyl -2-pyridinyl]-1-phenylethanone | ClC=1C=C(C=C(C1)C1=NC=CC=C1C(F)(F)F)C(C)=O | C14H9ClF3NO
